US08791134B2
4-Nitrosotetrahydro-2H-pyran-4-yl 2,2,2-trifluoroacetate was prepared from tetrahydro-pyran-4-one oxime, lead tetraacetate and trifluoroacetic acid using conditions of General Method 3. 1H NMR (250 MHz, chloroform-d) δ 4.18 (2 H, m), 3.75 (2 H, m), 2.53 (2 H, m), 1.92 (2 H, m).

reactant | tetrahydro-pyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-Nitrosotetrahydro-2H-pyran-4-yl 2,2,2-trifluoroacetate | FC(C(=O)OC1(CCOCC1)N=O)(F)F | C7H8F3NO4
